US05328911
Methyl 2-(4-methylphenyl)benzoate
6 g of sulfuric acid in 12 ml of methanol was added to 3.2 g of 2-(4-methylphenyl)benzoic acid [see A. I. Meyers et al., J. Org. Chem., 43, 1372 (1978)] and the mixture was heated under reflux for 8 hr. The refluxed solution was cooled, poured into ice water, weakly alkalified with aqueous ammonia and extracted with ether. The extract was dried over anhydrous magnesium sulfate. The dried extract was concentrated, and the residue was recrystallized from n-hexane to prepare 2.4 g of the title compound.

reactant | sulfuric acid | 6 g | S(O)(O)(=O)=O | H2O4S
reactant | 2-(4-methylphenyl)benzoic acid | 3.2 g | CC1=CC=C(C=C1)C1=C(C(=O)O)C=CC=C1 | C14H12O2
reactant | ammonia | N | H3N
reactant | methanol | 12 ml | CO | CH4O
product | Methyl 2-(4-methylphenyl)benzoate | CC1=CC=C(C=C1)C1=C(C(=O)OC)C=CC=C1 | C15H14O2
